US06414148B1
A solution of diglycolic anhydride (2.32 g, 20 mmol) in 3-amino-1-propanol (6 ml) was refluxed at 180° C. for 3 hours. The volatiles were removed by evaporation and the residue was purified by column chromatography on silica eluting with methylene chloride/methanol (8/2) to give 4-(3-hydroxypropyl)-3,5-dioxomorpholine (3.46 g, 99%).

reactant | diglycolic anhydride | 20 mmol, 2.32 g | C1(COCC(=O)O1)=O | C4H4O4
reactant | 3-amino-1-propanol | 6 ml | NCCCO | C3H9NO
product | 4-(3-hydroxypropyl)-3,5-dioxomorpholine | 3.46 g, 99% | OCCCN1C(COCC1=O)=O | C7H11NO4
